US07629358B2
Preparation 144: 3-{3-[2-({(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]phenyl}propanoic acid
Ammonium formate (139 mg, 2.20 mmol) and palladium (II) hydroxide (50 mg) was added to a solution of 3-(3-{2-[2-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(tert-butyl-dimethyl-silanyloxy)ethylamino]-2-methyl-propyl}-phenyl)-acrylic acid benzyl ester (preparation 143), (300 mg, 0.44 mmol) in ethanol (10 mL) and the mixture was heated under reflux for 30 minutes. The reaction mixture was then cooled, filtered through Arbocel® and concentrated in vacuo to afford the title compound in 90% yield, 200 mg. 1H NMR (400 MHz, CD3OD) δ: 7.30 (1H, s), 7.20 (1H, m), 7.18 (1H, d), 7.09 (2H, m), 7.00 (1H, d), 6.78 (1H, d), 4.88 (1H, m), 4.63 (2H, m), 3.11 (2H, m), 2.83 (4H, m), 2.48 (2H, m), 1.23 (6H, s), 0.81 (9H, s), −0.03 (3H, s), −0.18 (3H, s) ppm; LRMS ESI m/z 502 [M+H]+

reactant | Ammonium formate | 2.20 mmol, 139 mg | C(=O)[O-].[NH4+]
reactant | 3-(3-{2-[2-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(tert-butyl-dimethyl-silanyloxy)ethylamino]-2-methyl-propyl}-phenyl)-acrylic acid benzyl ester | 0.44 mmol, 300 mg | C(C1=CC=CC=C1)OC(C=CC1=CC(=CC=C1)CC(C)(C)NCC(O[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)OCC1=CC=CC=C1)CO)=O | C42H53NO5Si
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium (II) hydroxide | 50 mg | [OH-].[Pd+2].[OH-]
product | 3-{3-[2-({(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]phenyl}propanoic acid | 90% yield | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C=CC1)CCC(=O)O)(C)C)C1=CC(=C(C=C1)O)CO | C28H43NO5Si
